US04266053
39.1 Parts of the hexakis(2-hydroxyethyl)melamine obtained above was dissolved in 100 parts of acrylic acid together with 0.03 part of p-methoxy phenol; and 80 parts of acrylic acid anhydride was added dropwise to the solution at room temperature under agitation, and made to react at 40°-50° C. for 5 hours. The reaction product was added to 1200 parts of water under vigorous agitation, and thereafter, an organic layer was separated. 200 Parts of ethyl acetate was added to the organic layer, the mixture was washed twice with aqueous solution of sodium carbonate and three times with water. The organic phase was separated, added with 30 parts of magnesium sulfate, and dried. Solvents were removed therefrom by distillation leaving hexakis(2-acryloyloxyethyl)melamine as viscous liquid.

reactant | hexakis(2-hydroxyethyl)melamine | OCCN(C1=NC(=NC(=N1)N(CCO)CCO)N(CCO)CCO)CCO | C15H30N6O6
reactant | acrylic acid anhydride | C(C=C)(=O)OC(C=C)=O | C6H6O3
reactant | water | O | H2O
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
solvent | p-methoxy phenol | COC1=CC=C(C=C1)O | C7H8O2
product | hexakis(2-acryloyloxyethyl)melamine | C(C=C)(=O)OCCN(C1=NC(=NC(=N1)N(CCOC(C=C)=O)CCOC(C=C)=O)N(CCOC(C=C)=O)CCOC(C=C)=O)CCOC(C=C)=O | C33H42N6O12
